US04535089
4.0 g of isobutyrylmethylamine hydrochloride, 6.1 g of sodium bicarbonate and 5.1 g of 4-fluorobenzoyl chloride are treated in the same manner as described in Preparation 1-(4). 5.8 g of N-(4-fluorobenzoyl)isobutyrylmethylamine are thereby obtained. Yield: 89.2%.

reactant | isobutyrylmethylamine hydrochloride | 4.0 g | Cl.C(C(C)C)(=O)CN
reactant | sodium bicarbonate | 6.1 g | C([O-])(O)=O.[Na+]
reactant | 4-fluorobenzoyl chloride | 5.1 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(4-fluorobenzoyl)isobutyrylmethylamine | 5.8 g, Yield: 89.2% | FC1=CC=C(C(=O)NCC(C(C)C)=O)C=C1 | C12H14FNO2
